US07285563B2
N-(1-chloro-3-ethylisoquinolin-5-yl)-N′-[4-(trifluoromethyl)benzyl]urea
Prepared from 1-chloro-3-ethylisoquinolin-5-amine (Description 66) and [4-(trifluoromethyl)benzyl]isocyanate (Description 58) according to the procedure of Description 61. m/z (ES+) 408, 410 (M+H)+.

reactant | 1-chloro-3-ethylisoquinolin-5-amine | ClC1=NC(=CC=2C(=CC=CC12)N)CC | C11H11ClN2
reactant | [4-(trifluoromethyl)benzyl]isocyanate | FC(C1=CC=C(CN=C=O)C=C1)(F)F | C9H6F3NO
product | N-(1-chloro-3-ethylisoquinolin-5-yl)-N′-[4-(trifluoromethyl)benzyl]urea | ClC1=NC(=CC2=C(C=CC=C12)NC(=O)NCC1=CC=C(C=C1)C(F)(F)F)CC | C20H17ClF3N3O
